US06440440B1
A mixture of 1,1′-biphenyl (0.3 mol) and aluminum-(III)-chloride (0.6 mol) in 1,2-dichloroethane (500 ml) was stirred. A mixture of ethyl 4-(chlorocarbonyl)-1-piperidinecarboxylate (0.3 mol) in 1,2-dichloroethane (100 ml) was added dropwise over a 30-minutes period (exothermic temperature rise to 30° C.). The mixture was stirred at room temperature for 90 minutes, poured out into ice and HCl and extracted with DCM. CH3OH was added. The organic layer was separated, dried, filtered and the solvent was evaporated. The residue was purified by column chromatography over silica gel (eluent: CH2Cl2/CH3OH 99/1). The pure fractions were collected and the solvent was evaporated. The residue was crystallized from DIPE. The precipitate was filtered off and dried, yielding 42 g of ethyl 4-(4-phenylbenzoyl)-1-piperidinecarboxylate (interm. 9).

reactant | 1,1′-biphenyl | 0.3 mol | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
reactant | aluminum-(III)-chloride | 0.6 mol | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | ethyl 4-(chlorocarbonyl)-1-piperidinecarboxylate | 0.3 mol | ClC(=O)C1CCN(CC1)C(=O)OCC | C9H14ClNO3
reactant | HCl | Cl | ClH
solvent | 1,2-dichloroethane | 500 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
product | ethyl 4-(4-phenylbenzoyl)-1-piperidinecarboxylate | 42 g | C1(=CC=CC=C1)C1=CC=C(C(=O)C2CCN(CC2)C(=O)OCC)C=C1 | C21H23NO3
